US08633214B2
1,1-dimethylethyl(2R)-2-(4-fluoro-2-methylphenyl)-4-oxo-1-piperidinecarboxylate
To a solution of (2S)-hydroxy(phenyl)ethanoic acid—(2R)-2-(4-fluoro-2-methylphenyl)-4-piperidinone (1:1) (WO 2008090117 published on 31 Jul. 2008) (50 g, 139 mmol) in dry Dichloromethane (DCM) (550 ml) TEA (29.1 ml, 209 mmol) was added and then BOC-Anhydride (38.8 ml, 167 mmol). The reaction mixture was stirred overnight at r.t. The reaction was diluted with NaHCO3 sat. sol. (400 ml) and two phases were separated. The organic layer was dried (Na2SO4), filtered and evaporated in vacuo. The residue was purified by a small pad of silica panel eluting with Cy to 7:3 Cy/EtOAc to afford the title compound (37.6 g, 122 mmol, 88% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.08-7.18 (m, 1H) 6.80-6.92 (m, 2H) 5.62 (br. s., 1H) 4.16-4.32 (m, 1H) 3.09-3.30 (m, 1H) 2.79 (d, 2H) 2.39-2.62 (m, 2H) 2.33 (s, 3H) 1.33-1.51 (m, 9H); UPLC: Rt=0.77 mins, m/z=251 [M−56+H]+.

reactant | (2S)-hydroxy(phenyl)ethanoic acid (2R)-2-(4-fluoro-2-methylphenyl)-4-piperidinone | 139 mmol, 50 g | O[C@H](C(=O)O)C1=CC=CC=C1.FC1=CC(=C(C=C1)[C@@H]1NCCC(C1)=O)C
reactant | Dichloromethane | 209 mmol, 550 ml | ClCCl | CH2Cl2
reactant | NaHCO3 | 400 ml | C(=O)(O)[O-].[Na+]
product | 1,1-dimethylethyl(2R)-2-(4-fluoro-2-methylphenyl)-4-oxo-1-piperidinecarboxylate | 122 mmol, 37.6 g, 88% yield | FC1=CC(=C(C=C1)[C@@H]1N(CCC(C1)=O)C(=O)OC(C)(C)C)C | C17H22FNO3
